US08604015B2
Quinuclidine-3-carboxylic acid hydrochloride (150 mg, 0.78 mmol), EDC (225 mg, 1.17 mmol) and HOBT (180 mg, 1.17 mmol) were dissolved in dry THF (7.5 ml). Bis(4-chlorophenyl)methanol (218 mg, 0.86 mmol) was added followed by TEA (382 μl, 2.74 mmol). The resulting reaction was stirred at room temperature overnight. THF was removed under vacuum, and the crude was partitioned between EtOAc and water. The organic phase was washed with sat. NaHCO3, dried over sodium sulphate, filtered, and evaporated to dryness. The crude was purified by flash chromatography (EtOAc/MeOH=8/2 to 7:3+1% of NH4OH) to obtain bis(4-chlorophenyl)methyl quinuclidine-3-carboxylate (85.0 mg, racemic mixture).

reactant | Quinuclidine-3-carboxylic acid hydrochloride | 0.78 mmol, 150 mg | Cl.N12CC(C(CC1)CC2)C(=O)O
reactant | EDC | 1.17 mmol, 225 mg
reactant | HOBT | 1.17 mmol, 180 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Bis(4-chlorophenyl)methanol | 0.86 mmol, 218 mg | ClC1=CC=C(C=C1)C(O)C1=CC=C(C=C1)Cl | C13H10Cl2O
solvent | THF | 7.5 ml | C1CCOC1 | C4H8O
product | bis(4-chlorophenyl)methyl quinuclidine-3-carboxylate | 85.0 mg | N12CC(C(CC1)CC2)C(=O)OC(C2=CC=C(C=C2)Cl)C2=CC=C(C=C2)Cl | C21H21Cl2NO2
